US05607956
1-(2,5-Dimethyl-4-oxazolyl)-1-(3-thienyl)ethanol
Starting with 3-bromothiophene and 4-acetyl-2,5dimethyloxazole and following the general method of Example 4 the title compound was prepared. M.p. 83°-84° C.

reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | 4-acetyl-2,5dimethyloxazole | C(C)(=O)C=1N=C(OC1C)C | C7H9NO2
product | 1-(2,5-Dimethyl-4-oxazolyl)-1-(3-thienyl)ethanol | CC=1OC(=C(N1)C(C)(O)C1=CSC=C1)C | C11H13NO2S
